US08247576B2
8E. [3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propyl]-methyl-amine
Under a nitrogen atmosphere, the crude 3-(4-bromo-phenyl)-3-(4-chloro-phenyl)-N-methyl-propionamide was cooled to 0° C., lithium aluminum hydride (0.075 g, 1.97 mmol) and diethyl ether (3 ml) were added. With cooling, aluminum chloride (0.23 g, 1.69 mmol) was dissolved in diethyl ether (2 ml) and added. The reaction mixture was stirred for 16 hours, quenched with addition of water, basified (2N NaOH) and extracted with ethyl acetate. The organic layer was separated, dried (MgSO4), filtered and concentrated, the crude product was purified over Phenomenex_Strata_SCX column chromatography eluting with methanol followed by 2N ammonia in methanol to afford the desired product (0.254 g, 62% yield for steps 1D and 1E combined). LC/MS: (PS-B3) Rt 3.20 [M+H]+ 339.85.

reactant | 3-(4-bromo-phenyl)-3-(4-chloro-phenyl)-N-methyl-propionamide | BrC1=CC=C(C=C1)C(CC(=O)NC)C1=CC=C(C=C1)Cl | C16H15BrClNO
reactant | lithium aluminum hydride | 1.97 mmol, 0.075 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 1.69 mmol, 0.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | [3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propyl]-methyl-amine | 0.254 g, 62% yield | BrC1=CC=C(C=C1)C(CCNC)C1=CC=C(C=C1)Cl | C16H17BrClN
